US09102591B2
A solution of 4-benzylpyridazine (1.0 g, 5.9 mmol) in AcOH (28 mL) was added dropwise to a stirring suspension of SeO2 (3.2 g, 29.5 mmol) in AcOH (28 mL), the resulting mixture was heated to 100° C. for 1 h. TLC showed the starting material had disappeared, then the reaction solution was filtrated, the filtration was concentrated under reduced pressure, and Sat.aq Na2CO3 was added to adjust PH=9-10, then, extracted with DCM (50 mL×3), washed by brine, dried over Na2SO4 and concentrated to get the phenyl(pyridazin-4-yl)methanone (1.0 g, yield: 91%). 1H NMR (CDCl3 400 MHz): δ9.50-9.45 (m, 2H), 7.83 (d, J=7.6 Hz, 2H), 7.78-7.74 (dd, J=5.2, 2.4 Hz, 1H), 7.74-7.68 (m, 1H), 7.57 (t, J=7.2 Hz, 2H).

reactant | 4-benzylpyridazine | 5.9 mmol, 1.0 g | C(C1=CC=CC=C1)C1=CN=NC=C1 | C11H10N2
reactant | AcOH | 28 mL | CC(=O)O | C2H4O2
reactant | AcOH | 28 mL | CC(=O)O | C2H4O2
product | phenyl(pyridazin-4-yl)methanone | 1.0 g, yield: 91% | C1(=CC=CC=C1)C(=O)C1=CN=NC=C1 | C11H8N2O
